US07419975B2
But-3-enyl-phenethyl-amine (2).
To a solution of 2-phenylethylamine (72 mL, 570 mmol) is added K2CO3 (82 g, 570 mmol) and 4-bromo-1-butene (25 g, 185 mmol). The solution is stirred overnight at room temperature. The solution is evaporated to dryness and H2O/EtOAc (1:1) (600 mL) is added. The mixture is extracted with EtOAc (4×150 mL). The organic extracts are combined, dried and concentrated under vacuum. The residue is purified by flash chromatography (silica gel; Hexane/EtOAc 1:8) to provide 20 g (62%) of the title compound. M+H+=176.10.

reactant | 2-phenylethylamine | 570 mmol, 72 mL | C1(=CC=CC=C1)CCN | C8H11N
reactant | K2CO3 | 570 mmol, 82 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromo-1-butene | 185 mmol, 25 g | BrCCC=C | C4H7Br
product | But-3-enyl-phenethyl-amine | 20 g, 62% | C(CC=C)NCCC1=CC=CC=C1 | C12H17N
